*

* model
*.include irf520.lib
*XM1 VR Vin 0 IRF520

.include bss83.lib

M1 VR Vin 0 0 BSS83 W=1e-3 L=1e-6
R1 Vdd VR 1000

V_dd Vdd 0 dc 5. 
V_in Vin 0 ac 1 sin(1.0 1.0 100MEG 0 0) 

*C1 Vin 1 330p IC=0 
*C2 2   0 330p IC=0 

*----------------------------------------------

.print tran v(Vin) v(VR) 

*v(2) i(C1) i(C2) i(D1) i(D2)

.tran 100p .2u 0 trace all > mos.out *gnucap
*.tran 1u 100u 0 *ngspice


.op

.END
